US09102662B2
Preparation of ethyl 5-(3,5-difluorobenzyl)-3-({[4-(4-methylpiperazin-1-yl)-2-(tetrahydro-2H-pyran-4-ylamino)phenyl]carbonyl}amino)-1H-indazole-1-carboxylate [(XXVII), R1=R2=R3=H, R=3,5-difluorophenyl, Ar=4-(4-methylpiperazin-1-yl)-2-(tetrahydro-2H-pyran-4-ylamino)phenyl, PG=ethoxycarbonyl] cpd. 140
To a solution of N-[5-(3,5-difluoro-benzyl)-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-2-(tetrahydro-pyran-4-ylamino)-benzamide (200 mg, 0.356 mmol) in anhydrous tetrahydrofurane (9 mL) maintained at −50° C. under nitrogen atmosphere a 1M solution of LiHMSD in anhydrous tetrahydrofurane (0.374 mL) was added. After stirring at that temperature for 5 minutes ethyl chloroformate (0.036 mL, 0.374 mmol) was added. After 1 hour at −50° C. the reaction was completed. Reaction mixture was diluted with water/EtOAc, washed with brine, dried over sodium sulphate and evaporated to dryness. The crude was purified by flash chromatography on silica gel eluting with DCM/ethanol 100:5, affording 140 mg (62% yield) of the title compound.

reactant | N-[5-(3,5-difluoro-benzyl)-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-2-(tetrahydro-pyran-4-ylamino)-benzamide | 0.356 mmol, 200 mg | FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(C2=C(C=C(C=C2)N2CCN(CC2)C)NC2CCOCC2)=O)C=C(C1)F | C31H34F2N6O2
reactant | ethyl chloroformate | 0.374 mmol, 0.036 mL | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofurane | 9 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 0.374 mL | O1CCCC1 | C4H8O
solvent | water EtOAc | O.CCOC(=O)C
product | ethyl 5-(3,5-difluorobenzyl)-3-({[4-(4-methylpiperazin-1-yl)-2-(tetrahydro-2H-pyran-4-ylamino)phenyl]carbonyl}amino)-1H-indazole-1-carboxylate | 140 mg, 62% yield | FC=1C=C(CC=2C=C3C(=NN(C3=CC2)C(=O)OCC)NC(=O)C2=C(C=C(C=C2)N2CCN(CC2)C)NC2CCOCC2)C=C(C1)F | C34H38F2N6O4
